US05256675
A solution of 5-chloro-2-formylamino-4-(4-formylaminophenylthiomethyl)thiazole (3.5 g) in a mixture of concentrated hydrochloric acid (9 ml), methanol (30 ml) and tetrahydrofuran (30 ml) was stirred at room temperature for 4 hours. The reaction mixture was concentrated under reduced pressure and the residue was dissolved in water. The solution was adjusted to pH 8 using aqueous sodium bicarbonate with stirring under ice cooling. The precipitates were collected by filtration, washed with water and dried in vacuo to give solid. The solid was subjected to column chromatography on silica gel (silica gel 60, 70-230 mesh; Merck: 150 g) and eluted with a mixture of chloroform and methanol (10:1). The fractions containing the objective compound were combined and concentrated under reduced pressure to give 2-amino-4-(4-aminophenylthiomethyl)-5-chlorothiazole (2.3 g, yield: 79.3%). mp: 158°-163° C. (dec.)

reactant | 5-chloro-2-formylamino-4-(4-formylaminophenylthiomethyl)thiazole | 3.5 g | ClC1=C(N=C(S1)NC=O)CSC1=CC=C(C=C1)NC=O | C12H10ClN3O2S2
reactant | hydrochloric acid | 9 ml | Cl | ClH
reactant | methanol | 30 ml | CO | CH4O
solvent | tetrahydrofuran | 30 ml | O1CCCC1 | C4H8O
product | 2-amino-4-(4-aminophenylthiomethyl)-5-chlorothiazole | 2.3 g, yield: 79.3% | NC=1SC(=C(N1)CSC1=CC=C(C=C1)N)Cl | C10H10ClN3S2
